US07812040B2
3-{[4-(methylsulfonyl)piperazin-1-yl]carbonyl}cyclobutanone.
BOP (4.43 g, 10 mmol) was poured some more to a solution of 3-oxo-cyclobutanecarboxylic acid (1.14 g, 10 mmol), intermediate 35, 1-(Methanesulphonyl)piperazine (1.64 g, 10 mmol), and triethylamine (4.1 mL, 30 mmol) in DMF (10 mL) in argon under stirring at 0° C. The mixture was stirred for 20 h, evaporated, and the residue was dried at 0.5 mmHg. The residue was subjected to chromatography on SiO2 (200 g, 40-63 μm, CHCl3/hexane 8:2, 9:1, 9.5:0.5→CHCl3→CHCl3/i-PrOH 99:1→95:5) to give the title compound as white crystals in 2.2 g yield. GCMS data: M+ 260 (Calculated for C10H16N2O4S 260.31), 93.5%, r.t. 14.64 min. 1H-NMR data (dmso-d6): 3.56-3.64 (m, 4H), 3.50 (ddd, 1H, J=7.1 Hz, J=9 Hz, J=15 Hz), 3.20-3.29 (m, 4H), 3.08-3.15 (m, 4H), 2.89 (s, 3H).

reactant | BOP | 10 mmol, 4.43 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | 3-oxo-cyclobutanecarboxylic acid | 10 mmol, 1.14 g | O=C1CC(C1)C(=O)O | C5H6O3
reactant | 1-(Methanesulphonyl)piperazine | 10 mmol, 1.64 g | CS(=O)(=O)N1CCNCC1 | C5H12N2O2S
reactant | triethylamine | 30 mmol, 4.1 mL | C(C)N(CC)CC | C6H15N
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 3-{[4-(methylsulfonyl)piperazin-1-yl]carbonyl}cyclobutanone | CS(=O)(=O)N1CCN(CC1)C(=O)C1CC(C1)=O | C10H16N2O4S
